US05807882
Stage F: 6-Chloro-5-aza-7,12-dioxabenz[a]anthracene
Under an inert atmosphere, [5H]-7,12-dioxa-5-azabenz[a]anthracen-6-one is brought to reflux of phosphorus oxychloride for 6 hours. The solvent (phosphorus oxychloride) is then evaporated off under vacuum and the crude mixture is chromatographed by flash chromatography on silica gel (eluent: petroleum ether/ethyl acetate).

reactant | [5H]-7,12-dioxa-5-azabenz[a]anthracen-6-one | C1=CC=CC2=C1C=1OC3=CC=CC=C3OC1C(N2)=O | C15H9NO3
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-Chloro-5-aza-7,12-dioxabenz[a]anthracene | ClC=1N=C2C(=C3OC4=CC=CC=C4OC13)C=CC=C2 | C15H8ClNO2
